US07109186B2
Compound 12: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl amide
A solution of 2 M methylamine in tetrahydrofuran (0.5 ml, 1.0 mmol) was added to a mixture of paraformaldehyde (0.3 g, 1.0 mmol, equivalent of formaldehyde) in anhydrous ethanol (1 ml) and the resulting mixture was heated at 60° C. for 5 min. Then a solution of 3-[(3,4-dichlorobenzyl)-methyl-carbamoyl]-2-hydroxy-acrylic acid methyl ester (0.318 g, 1.0 mmol) in ethanol (3 ml) was added all at once and the resulting mixture was maintained at 60° C. for another 20 min. The reaction mixture was then quenched by the addition of ethyl acetate and pH 2 phosphate buffer. The organic phase was washed with brine, dried (anhydrous magnesium sulfate) and concentrated under reduced pressure. Recrystallization of the solid residue from a mixture of ethyl acetate and hexane gave 0.180 g (54% yield) of the title material as a white solid: mp 148–150° C.

reactant | methylamine | 2 M | CN | CH5N
reactant | tetrahydrofuran | 1.0 mmol, 0.5 ml | O1CCCC1 | C4H8O
reactant | paraformaldehyde | 1.0 mmol, 0.3 g | C=O | CH2O
reactant | 3-[(3,4-dichlorobenzyl)-methyl-carbamoyl]-2-hydroxy-acrylic acid methyl ester | 1.0 mmol, 0.318 g | COC(C(=CC(N(C)CC1=CC(=C(C=C1)Cl)Cl)=O)O)=O | C13H13Cl2NO4
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl amide | 0.180 g, 54% yield | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)C)C)C=CC1Cl | C14H14Cl2N2O3
